US05585485
7-[[(2-amino-4-thiazolyl)-2-oxoacetyl]amino]-3-[(2,5-dihydro-6-hydroxy-2-methyl-5-oxo-1,2,4-triazin-3-yl)-thiomethyl]ceph-3-em-4-carboxylic Acid
14.85 ml of N,O-bis(trimethylsilyl)acetamide are added at 30° to 7.4 g of 7-amino-3-[(2,5-dihydro-6-hydroxy-2-methyl-5-oxo-1,2,4-triazin-3-yl)thiomethyl]ceph-3-em-4-carboxylic acid (water content: 3.7%) in 50 ml of dichloromethane. After two hours at 30°, the mixture is cooled to -15°. 8.1 g of 2-(2-amino-4-thiazolyl)-2-oxothioacetic-acid-S-benzothiazol-2-ylester are added, and stirred for six hours at -15°. The preparation is added to 500 ml of ethanol which has been warmed to 50°, then cooled whilst stirring and stirred for one hour at 0°. The deposit is filtered off, washed and dried. 9.1 g of the title compound are obtained as a yellow powder.

reactant | N,O-bis(trimethylsilyl)acetamide | 14.85 ml | C/C(=N\[Si](C)(C)C)/O[Si](C)(C)C | C8H21NOSi2
reactant | 7-amino-3-[(2,5-dihydro-6-hydroxy-2-methyl-5-oxo-1,2,4-triazin-3-yl)thiomethyl]ceph-3-em-4-carboxylic acid | NC1[C@@H]2N(C(=C(CS2)CSC=2N(N=C(C(N2)=O)O)C)C(=O)O)C1=O | C12H13N5O5S2
reactant | 2-(2-amino-4-thiazolyl)-2-oxothioacetic-acid-S-benzothiazol-2-ylester | 8.1 g | S1C(=NC2=C1C=CC=C2)SC(C(=O)C=2N=C(SC2)N)=O | C12H7N3O2S3
reactant | ethanol | 500 ml | C(C)O | C2H6O
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 7-[[(2-amino-4-thiazolyl)-2-oxoacetyl]amino]-3-[(2,5-dihydro-6-hydroxy-2-methyl-5-oxo-1,2,4-triazin-3-yl)-thiomethyl]ceph-3-em-4-carboxylic Acid | 9.1 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC=2N(N=C(C(N2)=O)O)C)C(=O)O)C1=O)=O | C17H15N7O7S3
